***********************************************************************
* Spice Subcircuits for Package Pins
***********************************************************************
* These files are subcircuit spice models for the Fairchild Semiconductor
* logic devices. They are intended for use as package
* models which will accurately represent the characteristics of the
* indicated package pins.
*
* These model files can be used independently from temperature.
*
* The terminals of these subcircuits are labelled as follows:
*       EXT         node    1
*       INT         node    3                  
*       GNDI        node    0            
*                                   
* SPECIAL NOTES:
*   1. The EXT node is the node which is used to connect external loads
*      to the package.  The INT node is the node which is used to connect
*      input or output subcircuits to the package elements.  In other
*      words, this is the bond pad node.
*   2. The GNDI node is a ground node which is internal to a package.  All
*      subcircuits which represent internal circuits in a package should
*      have their GNDI nodes connected together.  The GNDI node should NOT
*      be connected to a ground reference node which is used with
*      external voltage generators.
*   3. The inductors which are labelled as L$2 represent average bond
*      wire inductances.  They are not part of the inductance matrix for
*      the package lead fingers.
***********************************************************************
*
***********************************************************************
*   16 PIN SOIC PACKAGE (150 MILS WIDE) - CORNER PIN
***********************************************************************
.SUBCKT SOIC16CRNR 1 3 0
R$1 1 2 0.10
R$2 2 3 10000000
L$1 2 4 2.23NH
L$2 4 3 0.80NH
C$1 3 0 0.25PF
.ENDS
*                          
***********************************************************************
*   16 PIN SOIC PACKAGE (150 MILS WIDE) - CENTER PIN
***********************************************************************
.SUBCKT SOIC16MID 1 3 0   
R$1 1 2 0.08
R$2 2 3 10000000                           
L$1 2 4 1.14NH
L$2 4 3 0.53NH                     
C$1 3 0 0.05PF                           
.ENDS                   
*
***********************************************************************
*   20 PIN SOIC PACKAGE (300 MILS WIDE) - CORNER PIN
***********************************************************************
.SUBCKT SOIC20CRNR 1 3 0
R$1 1 2 0.15
R$2 2 3 10000000
L$1 2 4 3.81NH
L$2 4 3 1.40NH
C$1 3 0 0.20PF
.ENDS
*                          
***********************************************************************
*   20 PIN SOIC PACKAGE (300 MILS WIDE) - CENTER PIN
***********************************************************************
.SUBCKT SOIC20MID 1 3 0   
R$1 1 2 0.10
R$2 2 3 10000000                           
L$1 2 4 2.70NH
L$2 4 3 1.00NH                     
C$1 3 0 0.10PF                           
.ENDS                               
*
***********************************************************************
*   24 PIN SOIC PACKAGE (300 MILS WIDE) - CORNER PIN
***********************************************************************
.SUBCKT SOIC24CRNR 1 3 0
R$1 1 2 0.16
R$2 2 3 10000000
L$1 2 4 4.85NH
L$2 4 3 1.40NH
C$1 3 0 0.30PF
.ENDS
*                                
***********************************************************************
*   24 PIN SOIC PACKAGE (300 MILS WIDE) - CENTER PIN
***********************************************************************
.SUBCKT SOIC24MID 1 3 0   
R$1 1 2 0.10
R$2 2 3 10000000                           
L$1 2 4 2.68NH 
L$2 4 3 0.95NH                    
C$1 3 0 0.07PF                           
.ENDS                          
*              
***********************************************************************
*   48 PIN SSOP PACKAGE (300 MILS WIDE) - CORNER PIN
***********************************************************************
.SUBCKT SSOP48CRNR 1 3 0
R$1 1 2 0.14
R$2 2 3 10000000
L$1 2 4 6.38NH
L$2 4 3 0.85NH
C$1 3 0 0.60PF
.ENDS
*                          
***********************************************************************
*   48 PIN SSOP PACKAGE (300 MILS WIDE) - CENTER PIN
***********************************************************************
.SUBCKT SSOP48MID 1 3 0   
R$1 1 2 0.10
R$2 2 3 10000000                           
L$1 2 4 2.20NH
L$2 4 3 0.98NH                     
C$1 3 0 0.16PF                           
.ENDS
*
***********************************************************************
*   56 PIN SSOP PACKAGE (300 MILS WIDE) - CORNER PIN
***********************************************************************
.SUBCKT SSOP56CRNR 1 3 0
R$1 1 2 0.15
R$2 2 3 10000000
L$1 2 4 5.66NH
L$2 4 3 0.69NH
C$1 3 0 0.72PF
.ENDS
*                          
***********************************************************************
*   56 PIN SSOP PACKAGE (300 MILS WIDE) - CENTER PIN
***********************************************************************
.SUBCKT SSOP56MID 1 3 0   
R$1 1 2 0.10
R$2 2 3 10000000                           
L$1 2 4 1.72NH
L$2 4 3 0.65NH                     
C$1 3 0 0.15PF                           
.ENDS               
*
***********************************************************************
*   16 PIN TSSOP PACKAGE - CORNER PIN
***********************************************************************
.SUBCKT TSSOP16CRNR 1 3 0
R$1 1 2 0.10
R$2 2 3 10000000
L$1 2 4 3.00NH
L$2 4 3 0.50NH
C$1 3 0 0.22PF
.ENDS
*                          
***********************************************************************
*   16 PIN TSSOP PACKAGE - CENTER PIN
***********************************************************************
.SUBCKT TSSOP16MID 1 3 0   
R$1 1 2 0.08
R$2 2 3 10000000                           
L$1 2 4 1.50NH
L$2 4 3 0.50NH                     
C$1 3 0 0.10PF                           
.ENDS
*
***********************************************************************
*   20 PIN TSSOP PACKAGE - CORNER PIN
***********************************************************************
.SUBCKT TSSOP20CRNR 1 3 0
R$1 1 2 0.10
R$2 2 3 10000000
L$1 2 4 3.00NH
L$2 4 3 0.50NH
C$1 3 0 0.22PF
.ENDS
*                          
***********************************************************************
*   20 PIN TSSOP PACKAGE - CENTER PIN
***********************************************************************
.SUBCKT TSSOP20MID 1 3 0   
R$1 1 2 0.08
R$2 2 3 10000000                           
L$1 2 4 1.50NH
L$2 4 3 0.50NH                     
C$1 3 0 0.10PF                           
.ENDS
*
***********************************************************************
*   24 PIN TSSOP PACKAGE - CORNER PIN
***********************************************************************
.SUBCKT TSSOP24CRNR 1 3 0
R$1 1 2 0.10
R$2 2 3 10000000
L$1 2 4 3.00NH
L$2 4 3 0.50NH
C$1 3 0 0.22PF
.ENDS
*                          
***********************************************************************
*   24 PIN TSSOP PACKAGE - CENTER PIN
***********************************************************************
.SUBCKT TSSOP24MID 1 3 0   
R$1 1 2 0.08
R$2 2 3 10000000                           
L$1 2 4 1.50NH
L$2 4 3 0.50NH                     
C$1 3 0 0.10PF                           
.ENDS
*
***********************************************************************
*   48 PIN TSSOP PACKAGE - CORNER PIN
***********************************************************************
.SUBCKT TSSOP48CRNR 1 3 0
R$1 1 2 0.14
R$2 2 3 10000000
L$1 2 4 6.38NH
L$2 4 3 0.85NH
C$1 3 0 0.60PF
.ENDS
*                          
***********************************************************************
*   48 PIN TSSOP PACKAGE - CENTER PIN
***********************************************************************
.SUBCKT TSSOP48MID 1 3 0   
R$1 1 2 0.10
R$2 2 3 10000000                           
L$1 2 4 2.20NH
L$2 4 3 0.98NH                     
C$1 3 0 0.16PF                           
.ENDS
*
***********************************************************************
*   56 PIN TSSOP PACKAGE - CORNER PIN
***********************************************************************
.SUBCKT TSSOP56CRNR 1 3 0
R$1 1 2 0.15
R$2 2 3 10000000
L$1 2 4 3.66NH
L$2 4 3 0.69NH
C$1 3 0 0.32PF
.ENDS
*                          
***********************************************************************
*   56 PIN TSSOP PACKAGE - CENTER PIN
***********************************************************************
.SUBCKT TSSOP56MID 1 3 0   
R$1 1 2 0.10
R$2 2 3 10000000                           
L$1 2 4 0.72NH
L$2 4 3 0.65NH                     
C$1 3 0 0.10PF                           
.ENDS
